US08530473B2
2.7 g of tert-butyl ester of 4-[5-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-pyridin-2-yl]-3,4-dihydro-2H-quinoxaline-1-carboxylic acid is put in 30 ml of dioxane, then 22.37 ml of 4N HCl in dioxane is added. The reaction mixture is stirred for 48 h in a closed environment at room temperature. After concentration to dryness, the reaction mixture is diluted with 200 ml of a saturated aqueous solution of sodium hydrogen carbonate and extracted twice with 200 ml of dichloromethane. The resultant organic phases are combined, washed with 100 ml of a saturated aqueous solution of sodium hydrogen carbonate, and with 100 ml of a saturated aqueous solution of sodium chloride, dried over MgSO4 and concentrated to dryness. 2.1 g of 1-[5-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-pyridin-2-yl]-1,2,3,4-tetrahydroquinoxaline is obtained.

reactant | 4-[5-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-pyridin-2-yl]-3,4-dihydro-2H-quinoxaline-1-carboxylic acid | O1CCOC12CCN(CC2)C=2C=CC(=NC2)N2CCN(C1=CC=CC=C21)C(=O)O | C21H24N4O4
reactant | HCl | 4N, 22.37 ml | Cl | ClH
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 1-[5-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-pyridin-2-yl]-1,2,3,4-tetrahydroquinoxaline | 2.1 g | O1CCOC12CCN(CC2)C=2C=CC(=NC2)N2CCNC1=CC=CC=C21 | C20H24N4O2
